US04431497
A mixture of 37 g of chlorodiphenylmethane and 100 ml of water were refluxed under nitrogen for 16 hours. After cooling the water was decanted and 40 ml of ethanol was added to induce crystallization. The yellow solid was recrystallized 3 times from ethanol to give 21.9 g of dibenzhydryl ether, m.p. 108°-110°.

reactant | chlorodiphenylmethane | 37 g | ClC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Cl
reactant | water | O | H2O
reactant | water | 100 ml | O | H2O
product | dibenzhydryl ether | 21.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22O
